US07847047B2
(Synthesis of N-methacryloylasparagineamide)
A 11.3 ml portion of methacrylic acid chloride, 1 g of asparagineamide hydrochloride (mfd. by Kokusan Kagaku) and 50 ml of diethyl ether were put into a 300 ml capacity eggplant type flask and stirred on an ice bath. Next, 20 ml of saturated potassium carbonate aqueous solution was added dropwise thereto. Thereafter, this was stirred on an ice bath for 30 minutes and then at room temperature for 12 hours. Diethyl ether layer in the thus obtained reaction liquid was discarded, and the water layer was dissolved in 100 ml of methanol. After filtration, the filtrate was concentrated under a reduced pressure and fractionated by a silica gel column using methanol as the developing solvent. The thus obtained amide compound fraction was purified using an ion exchange resin (“Dynaion (trade name) PA 412” mfd. by Mitsubishi Kagaku) After concentration under a reduced pressure and subsequent drying under a reduced pressure, 0.43 g of colorless crystals were obtained.

reactant | methacrylic acid chloride | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | asparagineamide hydrochloride | 1 g | Cl.N[C@@H](CC(N)=O)C(=O)N
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
reactant | potassium carbonate | 20 ml | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | O | H2O
product | N-methacryloylasparagineamide | 0.43 g | C(C(=C)C)(=O)NC([C@@H](N)CC(N)=O)=O | C8H13N3O3
